US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(2-METHOXY-1-NAPHTHYL) METHYL]AMINE
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 2-methoxy-naphthalene-1-carbaldehyde. MS (ESI) m/z 379.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 2-methoxy-naphthalene-1-carbaldehyde | COC1=C(C2=CC=CC=C2C=C1)C=O | C12H10O2
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(2-METHOXY-1-NAPHTHYL) METHYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=C(C=CC2=CC=CC=C12)OC)C(F)(F)F | C35H27F3N2O
